US09227985B2
1-[7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]azetidin-3-ol
The title compound was prepared by methods analogous to Example 157, substituting 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine, azetidin-3-ol hydrochloride and extending the reaction time to 60 min. The mixture was diluted with methanol and purified by preparative LCMS using pH 10 buffer to give the title compound as a racemic mixture (16 mg, 23%). LCMS calc. for C22H22N5O3 (M+H)+: m/z=404.2. found: 404.2. The isomers were separated by prep chiral column chromatography using the following conditions: Column: phenomenex Lux Cellulose C-2 5 μm, 21, 2×250 mm, Mobile phase: 45% EtOH/Hexanes, gradient condition: isocratic at 18 mL/min, Loading: 2.0 mg in 900 μL, run time: 24 min, peak time: 12.0, 14.0, 16.0 and 21.0 min.

reactant | 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | ClC1=NC2=CC=C(C3=C2N1C(CO3)C=3C=NC=CC3)C=3C(=NOC3C)C | C19H15ClN4O2
reactant | azetidin-3-ol hydrochloride | Cl.N1CC(C1)O
solvent | methanol | CO | CH4O
product | 1-[7-(3,5-Dimethylisoxazol-4-yl)-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]azetidin-3-ol | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C=3C=NC=CC3)C(=N2)N2CC(C2)O)C | C22H21N5O3
